US07625901B2
Step A. Methyl 4-allylpiperidine-4-carboxylate
HCl (g) was bubbled through a solution of 4-allyl-1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid [Jiang et al. (2004) Bioorg. Med. Chem. Lett. 14, 3675-3678] (6.50 g, 24.1 mmol,) in MeOH (200 mL). The solution was heated at reflux for 16 h and then concentrated in vacuo to give the title compound as the hydrochloride salt. MS: m/z=184(M+1).

reactant | HCl | Cl | ClH
reactant | 4-allyl-1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid | 24.1 mmol, 6.50 g | C(C=C)C1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)O | C14H23NO4
reactant | MeOH | 200 mL | CO | CH4O
product | Methyl 4-allylpiperidine-4-carboxylate | C(C=C)C1(CCNCC1)C(=O)OC | C10H17NO2
